US05043482
To a solution, stirred at 0° C. under an inert atmosphere, of 165.5 g of 1,4-dimethoxybenzene and 218.7 g of 2,5-dichloro-2,5-dimethyl hexane, obtained in Example I(a), in 750 cm3 of anhydrous 1,2-dichloroethane, there are added, all at once, 31.9 g of powdered anhydrous aluminum chloride. The mixture is stirred for 1 hour at ambient temperature and then left to stand overnight. The next day after 4 hours stirring at this temperature, 600 cm3 of ice water are added. The organic phase is decanted and the aqueous phase is extracted three time with 400 cm3 of methylene chloride. The organic phases are combined, washed with water until neutral pH of the wash waters, then dried on sodium sulfate and concentrated. The resulting crude product is treated with animal charcoal in boiling ethanol, then recrystallized in this solvent. 195 g of 1,4-dimethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro naphthalene are obtained in the form of white needles having a melting point of 195° C.

reactant | 1,4-dimethoxybenzene | 165.5 g | COC1=CC=C(C=C1)OC | C8H10O2
reactant | 2,5-dichloro-2,5-dimethyl hexane | 218.7 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | aluminum chloride | 31.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 750 cm3 | ClCCCl | C2H4Cl2
product | 1,4-dimethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro naphthalene | 195 g | COC1=CC=C(C=2C(CCC(C12)(C)C)(C)C)OC | C16H24O2
